* C:\Users\adamp\Desktop\PAF - Pearl's Auto Feeder\PAF-hw\PAF-hw_Electrical\LTSpice Simulations\Draft4.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 PULSE(0 3.3 0 0 0 12.5u 50u 20000)
R1 N001 N002 10k
R2 N002 0 37.142k
C1 N002 0 220n
.tran 0 1 0 1u
.backanno
.end
